US08486946B2
Step 3: Preparation of ethyl 1-{[6-(1,3-thiazol-4-yl)pyridin-3-yl]methyl}-4-thioxo-1,4-dihydrocinnoline-3-carboxylate
Ethyl 4-oxo-1-{[6-(1,3-thiazol-4-yl)pyridin-3-yl]methyl}-1,4-dihydrocinnoline-3-carboxylate (750 mg, 2.00 mmol) was dissolved in toluene (9 mL), sparged under nitrogen and treated with Lawesson's Reagent (486 mg, 1.20 mmol, 0.6 equiv). The mixture was placed into an oil bath preheated to 105° C. for 1 hour, cooled to ambient temperature and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 60:40; hexanes:ethyl acetate) to provide the titled compound as a dark green solid.

reactant | Ethyl 4-oxo-1-{[6-(1,3-thiazol-4-yl)pyridin-3-yl]methyl}-1,4-dihydrocinnoline-3-carboxylate | 2.00 mmol, 750 mg | O=C1C(=NN(C2=CC=CC=C12)CC=1C=NC(=CC1)C=1N=CSC1)C(=O)OCC | C20H16N4O3S
reactant | Lawesson's Reagent | 1.20 mmol, 486 mg, 0.6 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-{[6-(1,3-thiazol-4-yl)pyridin-3-yl]methyl}-4-thioxo-1,4-dihydrocinnoline-3-carboxylate | S1C=NC(=C1)C1=CC=C(C=N1)CN1N=C(C(C2=CC=CC=C12)=S)C(=O)OCC | C20H16N4O2S2
